US04180583
4-Diphenylmethylene-1-[4-(p-fluorophenyl)-3-butenyl]-piperidine hydrochloride
A mixture of 15 g (0.034 mole) of α-(p-fluorophenyl)-4-(α-hydroxy-α-phenylbenzyl)-1-piperidinebutanol, 400 ml of concentrated HCl and 1500 ml of isopropyl alcohol was heated on a steam bath for 16 hours. The isopropyl alcohol was then concentrated by heating, and the remaining solution was cooled to room temperature. A precipitate formed which was collected on a filter and recrystallized from isopropyl alcohol and ethyl acetate to give the desired product, M.P. 166°-168.5° C.

reactant | α-(p-fluorophenyl)-4-(α-hydroxy-α-phenylbenzyl)-1-piperidinebutanol | 0.034 mole, 15 g | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)O | C28H32FNO2
reactant | HCl | 400 ml | Cl | ClH
solvent | isopropyl alcohol | 1500 ml | C(C)(C)O | C3H8O
product | 4-Diphenylmethylene-1-[4-(p-fluorophenyl)-3-butenyl]-piperidine hydrochloride | Cl.C1(=CC=CC=C1)C(=C1CCN(CC1)CCC=CC1=CC=C(C=C1)F)C1=CC=CC=C1 | InChI=1S/C28H28FN.ClH/c29-27-16-14-23(15-17-27)9-7-8-20-30-21-18-26(19-22-30)28(24-10-3-1-4-11-24)25-12-5-2-6-13-25;/h1-7,9-17H,8,18-22H2;1H
